US06313311B1
5-(1H-Imidazol-4-ylmethyl)-5,6,7,8-tetrahydronaphthalen-2-ol
A stirred mixture of 4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-ylmethyl)-1H-imidazole (220 mg) and 48% hydrobromic acid (11 ml) is heated under reflux for one hour. The cooled reaction mixture is poured into water and is made basic with ammonium hydroxide solution. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is converted to its hydrochloride salt in ethyl acetate. The yield is 130 mg, m.p. 200-205° C.

reactant | 4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-ylmethyl)-1H-imidazole | 220 mg | COC=1C=C2CCCC(C2=CC1)CC=1N=CNC1 | C15H18N2O
reactant | hydrobromic acid | 11 ml | Br | BrH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 5-(1H-Imidazol-4-ylmethyl)-5,6,7,8-tetrahydronaphthalen-2-ol | N1C=NC(=C1)CC1C=2C=CC(=CC2CCC1)O | C14H16N2O
